US07151105B2
Step 3: 2-Ethyl-5-methoxy-pyridine 1-oxide
3-Chloroperoxybenzoic acid (5.66 g, 32.8 mmol) was added to a stirred solution of 2-ethyl-5-methoxy-pyridine (3 g, 22 mmol) dissolved in CHCl3 (100 mL). The reaction was stirred at room temperature for 3 hours and then quenched with satd Na2SO3. The reaction mixture was partitioned between H2O and CH2Cl2. The organic layer was washed with 1N NaOH, dried over Na2SO4 and concentrated to an oil (3.3 g, 99%). 1H NMR (400 MHz, CDCl3): δ 1.29 (t, J=7.5 Hz, 3 H), 2.89 (q, J=7.5 Hz, 2 H), 3.82 (s, 3 H), 6.86 (d, J=8.4 Hz, 1 H), 7.11 (d, J=8.3 Hz, 1 H), 8.04 (s, 1 H).

reactant | 3-Chloroperoxybenzoic acid | 32.8 mmol, 5.66 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 2-ethyl-5-methoxy-pyridine | 22 mmol, 3 g | C(C)C1=NC=C(C=C1)OC | C8H11NO
solvent | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-Ethyl-5-methoxy-pyridine 1-oxide | C(C)C1=[N+](C=C(C=C1)OC)[O-] | C8H11NO2
